US06822100B2
A solution of trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid (1.5 g, 6 mmol) and carbonyl diimidazole in tetrahydrofuran was stirred for 0.5 hr. A solution of dimethylamine in tetrahydrofuran (3 ml, 2 M solution, 6 mmol) was added and the solution stirred for 3 hr. The solution was concentrated in vacuo and the residue dissolved in ethyl acetate. The organic solution was washed with 1 N HCl and saturated sodium bicarbonate solution. The solution was dried over sodium sulfate and concentrated in vacuo. The residue was triturated with isopropyl ether to give 1.5 g of trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid dimethylamide, mp 239-241° C. LC/MS mw=274; retention time 1.23 min. Mol wt calc1d for C15H15FN2O2: 274.

reactant | trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid | 6 mmol, 1.5 g | FC=1C=C2C(=CNC2=CC1)C(=O)[C@H]1[C@@H](C1)C(=O)O | C13H10FNO3
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mmol, 2 M, 3 ml | O1CCCC1 | C4H8O
product | trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid dimethylamide | 1.5 g | CN(C(=O)[C@H]1[C@@H](C1)C(=O)C1=CNC2=CC=C(C=C12)F)C | C15H15FN2O2
